US06465467B1
Step 1: 2-(5-Isoquinolinyloxy)ethanol.
A mixture of 5-hydroxyisoquinoline (2.05 g, 14.1 mmol), ethylene carbonate (1.43 g, 16.2 mmol), K2CO3 (0.97 g, 7.1 mmol) in DMF (6 mL) was heated at 155° C. for 1.5 h under stirring in a sealed tube. After cooling, the mixture was diluted with CHCl13 and filtered through a pad of Celite. The brownish filtrate was concentrated in vacuo, and the residue was purified by chromatography on silica gel using EtOAc as eluent to give 1.8 g (67%) of the title product as a beige oil which solidified on standing: mp 64-67° C.; HRMS m/z calcd for C11H11NO2 (M)+ 189.0790, found 189.0789. Anal. (C11H11NO2) C, H, N.

reactant | 5-hydroxyisoquinoline | 14.1 mmol, 2.05 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | ethylene carbonate | 16.2 mmol, 1.43 g | C1(OCCO1)=O | C3H4O3
reactant | K2CO3 | 7.1 mmol, 0.97 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(5-Isoquinolinyloxy)ethanol | 1.8 g, 67% | C1=NC=CC2=C(C=CC=C12)OCCO | C11H11NO2
